US05245035
Thionyl chloride (120.5 g) was added to a stirred mixture of 2-bromobenzoic acid (194 g) in toluene (500 ml) and N,N-dimethylformamide (DMF) (5 ml) and the mixture heated at 80° C. for 4 hours. The solution was cooled to 20° C. and added slowly to a solution of 4-nitroaniline (133.1 g) in toluene (500 ml) and NMP (120 ml), maintaining the temperature of the reaction mixture between 20°-25° C. The reaction mixture was then stirred for 24 hours when a solid precipitated. Water (360 ml) was added with rigorous stirring and the suspended solid collected by filtration, and washed successively with water, toluene and acetonitrile to give 2-bromo-N-(4-nitrophenyl)benzamide as a solid, in 87% yield, which was used without further purification or characterisation.

reactant | Thionyl chloride | 120.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-bromobenzoic acid | 194 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | 4-nitroaniline | 133.1 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | NMP | 120 ml | CN1CCCC1=O | C5H9NO
product | 2-bromo-N-(4-nitrophenyl)benzamide | 87% yield | BrC1=C(C(=O)NC2=CC=C(C=C2)[N+](=O)[O-])C=CC=C1 | C13H9BrN2O3
